US07439260B2
7-({5-[(1R)-Hydroxy-1-(trifluoromethyl)propyl]-1,3-thiazol-2-yl}thio)-4-pyridin-3-yl-2H-chromen-2-one
KOH (0.223 g, 3.97 mmol) was added to a solution of (2R)-1,1,1-trifluoro-2-(2-mercapto-1,3-thiazol-5-yl)butan-2-ol (0.966 g, 3.97 mmol) in dry MeOH. When a solution was obtained, the reaction mixture was concentrated to dryness. Dry toluene was then added and the mixture was concentrated to dryness again. The residue was dissolved with 7-bromo-4-pyridin-3-yl-2H-chromen-2-one (1.0 g, 3.31 mmol) in NMP, and the resulting mixture was stirred at 120° C. for 16 h. Once cooled, the mixture was directly applied onto a column of silica gel and chromatographed (acetone/toluene; 5:95 to 15:85), affording the title compound. 1H NMR (400 MHz, CDCl3): δ 8.81 (dd,1H), 8.72 (dd, 1H), 7.82 (dt, 1H), 7.78 (s, 1H), 7.51-7.59 (m, 2H), 7.33-7.40 (m, 2H), 6.42 (s, 1H), 2.88 (br s, 1H), 2.12 (q, 2H), 0.99 (t, 3H).

reactant | KOH | 3.97 mmol, 0.223 g | [OH-].[K+]
reactant | (2R)-1,1,1-trifluoro-2-(2-mercapto-1,3-thiazol-5-yl)butan-2-ol | 3.97 mmol, 0.966 g | FC([C@@](CC)(O)C1=CN=C(S1)S)(F)F | C7H8F3NOS2
reactant | 7-bromo-4-pyridin-3-yl-2H-chromen-2-one | 3.31 mmol, 1.0 g | BrC1=CC=C2C(=CC(OC2=C1)=O)C=1C=NC=CC1 | C14H8BrNO2
solvent | MeOH | CO | CH4O
solvent | NMP | CN1CCCC1=O | C5H9NO
product | 7-({5-[(1R)-Hydroxy-1-(trifluoromethyl)propyl]-1,3-thiazol-2-yl}thio)-4-pyridin-3-yl-2H-chromen-2-one | OCC[C@H](C(F)(F)F)C1=CN=C(S1)SC1=CC=C2C(=CC(OC2=C1)=O)C=1C=NC=CC1 | C21H15F3N2O3S2
